US07452892B2
D. Preparation of 7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
To a stirred suspension of 7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one (738 mg, 3.0 mmol) in DMF (5 mL) at room temperature under argon was added 5-(chloromethyl)-2-(trifluoromethyl)pyridine (647 mg, 3.3 mmol), followed by K2CO3 (828 mg, 6.0 mmol). The resulting mixture was heated at 60° C. for 48 h, after which time analysis by HPLC/MS indicated that the reaction was complete. After cooling the reaction mixture to room temperature, water (50 mL) was added. The resulting mixture was extracted with EtOAc (2×25 mL). The combined organic layers were washed with saturated aqueous NaCl, then dried over Na2SO4, filtered and evaporated under reduced pressure. The resulting residue was triturated with chloroform (3×20 mL) and filtered. The filtrate was concentrated under reduced pressure and purified by column chromatography eluted with ethyl acetate-dichloromethane to obtain 206 mg of the title compound as a solid. HPLC/MS (methanol-water with 10 mM NH4OAc): retention time=3.58 min, [M+H]30 =406.

reactant | 7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 3.0 mmol, 738 mg | ClC1=CC=C(C=C1)C1=CC=2N(C=N1)C(NN2)=O | C11H7ClN4O
reactant | 5-(chloromethyl)-2-(trifluoromethyl)pyridine | 3.3 mmol, 647 mg | ClCC=1C=CC(=NC1)C(F)(F)F | C7H5ClF3N
reactant | K2CO3 | 6.0 mmol, 828 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 50 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 206 mg | ClC1=CC=C(C=C1)C1=CC=2N(C=N1)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C18H11ClF3N5O
